US03967962
Crystalline poly (hexamethylene sebacate) was prepared using a kettle equipped with a stirrer, nitrogen gas inlet tube, thermometer and condenser by reacting sebacic acid with 1,6hexamethylene glycol in the presence of a p-toluenesulfonic acid catalyst as follows: sebacic acid and hexamethylene glycol were added to the reaction kettle in a respective 1.0 to 1.1 molar ratio along with 0.5 wt % p-toluenesulfonic acid. The 10 mole % excess of glycol was used to ensure the predominant presence of hydroxyl end groups in the reaction product. The mixture was heated to 165°C while stirring. At 165°C, an amount of xylene was added to assist refluxing and this temperature was maintained until water evolution ceased (4 hrs.). Afterwards, the condensers were removed and the excess glycol and catalyst were removed by sparging with nitrogen for 0.5 hours at 165°C. On cooling to room temperature, the poly (hexamethylene sebacate) crystallized into an off-white solid. Next, the poly (HMS) from above was purified by precipitation from a benzene solution into methanol using techniques well known in the art. The precipitated poly (HMS) was collected by filtration and dried in vacuo. Analytical data on this purified material indicate an acid number of 1.06, an hydroxyl number of 34.4, an Mn of 3165 g/mole, an MWD (Mw /Mn) of 1.41 by GPC in chloroform, a glass transition temperature of about -62°C and a crystalline melting point of about 65°C.

reactant | sebacic acid | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | hexamethylene glycol | C(CCCCCO)O | C6H14O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
catalyst | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | hexamethylene sebacate | C1(CCCCCCCCC(=O)OCCCCCCO1)=O | C16H28O4
